US07151097B2
Preparation of Intermediate 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-formyl-1H-pyrazole-3-carboxylic Acid Ethyl Ester (I-1c)
A solution of 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-vinyl-1H-pyrazole-3-carboxylic acid ethyl ester I-1b (2.9 g, 7.5 mmol), osmium tetroxide (8 mg, 0.08 mmol) and N-methylmorpholine-N-oxide (1.1 g, 8.2 mmol) in dioxane (24 ml)/water (6 ml) was stirred at ambient temperature for 18 hours, then sodium periodate (16 g, 75 mmol) was added and stirring was continued for 3.5 hours. The thick slurry was diluted with ethyl acetate (100 ml), filtered and solids washed 2× with ethyl acetate. The combined filtrates were washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford a solid mass. The solids were slurried in hot hexanes (30 ml), cooled, filtered and dried in vacuo to afford the title compound (I-1c) as a tan solid, 2.2 g.

reactant | 5-(4-chlorophenyl)-1-(2-chlorophenyl)-4-vinyl-1H-pyrazole-3-carboxylic acid ethyl ester | 7.5 mmol, 2.9 g | C(C)OC(=O)C1=NN(C(=C1C=C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C20H16Cl2N2O2
reactant | N-methylmorpholine-N-oxide | 8.2 mmol, 1.1 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 6 ml | O | H2O
reactant | sodium periodate | 75 mmol, 16 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | 0.08 mmol, 8 mg | [Os](=O)(=O)(=O)=O
product | 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-formyl-1H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NN(C(=C1C=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H14Cl2N2O3
